US20010007873A1
Under a N2 atmosphere in 830 mL of anhydrous dichloromethane was combined 61.6 g (192 mmol) of 2-benzyloxy-5-bromo4-methoxybenzaldehyde and 49.7 g (288 mmol) of MCPBA portionwise and the reaction was heated to reflux for 6 hours. The resultant mixture was allowed to cool overnight and was partitioned between ethyl acetate (1000 mL) and saturated sodium bicarbonate (300 mL). The aqueous layer was extracted again with ethyl acetate (200 mL) and the combined organic extracts were washed with brine (1×200 mL), dried over sodium sulfate, filtered and concentrated in vacuo to yield crude product. Chromatography on silica gel 60 (EM Science) starting with 10:1 hexane:ethyl acetate and increasing the ethyl acetate concentration yielded 33.7 g (57%) of 2-benzyloxy-5-bromo4-methoxyphenol as a tan solid.

reactant | 2-benzyloxy-5-bromo4-methoxybenzaldehyde | 192 mmol, 61.6 g | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C(=C1)OC)Br | C15H13BrO3
reactant | MCPBA | 288 mmol, 49.7 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 830 mL | ClCCl | CH2Cl2
product | 2-benzyloxy-5-bromo4-methoxyphenol | 33.7 g, 57% | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OC)Br)O | C14H13BrO3
